US07037925B2
4-(2-Ethylanilino)-6-methoxy-7-[2-(1-piperazinyl)ethoxy]-3-quinolinecarboxamide
Triphenylphosphine (0.12 g, 0.44 mmol) and 1-(2-hydroxyethyl)piperazine (25 μl, 0.22 mmol) was dissloved in CH2Cl2 and THF at −15° C. and stirred for 30 min. DEAD (70 μl, 0.44 mmol) was added dropwise at −15° C. 4-(2-ethylanilino)-7-hydroxy-6-methoxy-3-quinolinecarboxamide (0.50 g, 0.15 mmol) was suspended in THF and then added to the reaction. The reaction was stirred over night, allowing the temperature rise to ˜10° C. The solvent was removed under reduced pressure and the product was purified using preparative HPLC affording 34 mg (24%) of a clear oil.

reactant | Triphenylphosphine | 0.44 mmol, 0.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(2-hydroxyethyl)piperazine | 0.22 mmol, 25 μl | OCCN1CCNCC1 | C6H14N2O
reactant | DEAD | 0.44 mmol, 70 μl | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 4-(2-ethylanilino)-7-hydroxy-6-methoxy-3-quinolinecarboxamide | 0.15 mmol, 0.50 g | C(C)C1=C(NC2=C(C=NC3=CC(=C(C=C23)OC)O)C(=O)N)C=CC=C1 | C19H19N3O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | 4-(2-Ethylanilino)-6-methoxy-7-[2-(1-piperazinyl)ethoxy]-3-quinolinecarboxamide | 34 mg, 24% | C(C)C1=C(NC2=C(C=NC3=CC(=C(C=C23)OC)OCCN2CCNCC2)C(=O)N)C=CC=C1 | C25H31N5O3
